US06645964B1
The procedure is carried out as in Step A of Example 6, but starting with 57.4 g (0.25 mol) of 6-acetamido-4-methoxyquinaldine, prepared according to J. Amer. Chem. Soc., 1948, 70, 4065, and 100 cm3 of a 40% aqueous dimethylamine solution in 250 cm3 of acetic acid heated at 100° C. for 2 hours in a 1-dm3 autoclave. 38.71 g (77%) of 4-dimethylamino-6-aminoquinaldine are then obtained, after acid-base purification, on carrying out the procedure as in Step A of Example 6.

reactant | 6-acetamido-4-methoxyquinaldine | 0.25 mol, 57.4 g | C(C)(=O)NC=1C=C2C(=CC(=NC2=CC1)C)OC | C13H14N2O2
reactant | dimethylamine | CNC | C2H7N
solvent | acetic acid | 250 cm3 | C(C)(=O)O | C2H4O2
product | 4-dimethylamino-6-aminoquinaldine | 38.71 g, 77% | CN(C1=CC(=NC2=CC=C(C=C12)N)C)C | C12H15N3
